* Project Phoenix - Architecture C initial LTspice deck
* Purpose: topology sanity check before vendor-macromodel verification.
* Raw rails: +/-48..60 V. 100 Hz ripple parameterised.
* NOTE: LM317/LM337 are represented here by simple behavioural post-regulators.
* Replace XREGP/XREGN with the selected vendor macromodels for sign-off.

.param VRAW=55
.param RIPPLE=2
.param FLINE=100
.param RZ=4.7k
.param CZ=47u
.param ILOAD=4.7m

VRAW_P rawp 0 SINE({VRAW} {RIPPLE} {FLINE})
VRAW_N rawn 0 SINE({-VRAW} {RIPPLE} {FLINE})

* Positive preregulator
RZP rawp zbp {RZ}
DZP 0 zbp DZ24
CZP zbp 0 {CZ}
QPASS_P rawp zbp prep TIP41C_P

* Negative preregulator (mirror polarity)
RZN rawn zbn {RZ}
DZN zbn 0 DZ24
CZN zbn 0 {CZ}
QPASS_N rawn zbn pren TIP42C_P

* Behavioural post-regulators: clamp to +/-17 V while >=2.5 V headroom.
* These are intentionally simple and must not be used for final stability/noise claims.
BREGP outp 0 V=if(V(prep)>19.5,17,max(0,V(prep)-2.5))
BREGN outn 0 V=if(V(pren)<-19.5,-17,min(0,V(pren)+2.5))

* Receiver current loads; sign chosen to draw current from each output rail.
IP outp 0 {ILOAD}
IN 0 outn {ILOAD}

* Simplified device models for first-pass topology check only.
.model DZ24 D(BV=24 IBV=5m RS=8 N=1.2 CJO=200p)
.model TIP41C_P NPN(IS=1e-12 BF=35 VAF=75 IKF=1 CJE=300p CJC=150p VCEO=100)
.model TIP42C_P PNP(IS=1e-12 BF=35 VAF=75 IKF=1 CJE=300p CJC=150p VCEO=100)

.step param VRAW list 48 55 60
.step param ILOAD list 0 4.7m 8m 10m
.tran 0 300m 200m 20u startup
.meas TRAN PREP_AVG AVG V(prep) FROM 250m TO 300m
.meas TRAN PREN_AVG AVG V(pren) FROM 250m TO 300m
.meas TRAN OUTP_AVG AVG V(outp) FROM 250m TO 300m
.meas TRAN OUTN_AVG AVG V(outn) FROM 250m TO 300m
.meas TRAN PREP_PP PP V(prep) FROM 250m TO 300m
.meas TRAN PREN_PP PP V(pren) FROM 250m TO 300m
.end
