* Project Phoenix - Architecture C initial LTspice deck
* Purpose: preregulator topology and tolerance sanity check.
* Raw rails: +/-48..60 V. 100 Hz ripple parameterised.
*
* IMPORTANT:
* - LM317/LM337 are still represented by conservative behavioural post-regulators.
* - Their programming/minimum-load current is represented explicitly as part
*   of the preregulator input-current demand.
* - The BZX55C24 is represented by a deliberately simple parameterised
*   datasheet-derived Zener model, not a claimed Vishay vendor macromodel.
* - Replace behavioural regulators and transistor/Zener approximations with
*   validated manufacturer models before sign-off.

.param VRAW=55
.param RIPPLE=2
.param FLINE=100

* Zener feed network
.param RZ=3.9k
.param CZ=47u

* THAT1206 external receiver load
.param ILOAD=4.7m

* LM317/LM337 programming network
.param VREF=1.25
.param RSET=120
.param IPROG={VREF/RSET}

* Approximate regulator internal-current allowance.
* Kept separate so it can be swept/replaced when vendor models are introduced.
.param IREG=0

* BZX55C24 tolerance parameter:
* 22.8 V = low tolerance
* 24.0 V = nominal
* 25.6 V = high tolerance
.param VZ=24

VRAW_P rawp 0 SINE({VRAW} {RIPPLE} {FLINE})
VRAW_N rawn 0 SINE({-VRAW} {RIPPLE} {FLINE})

* Positive preregulator
RZP rawp zbp {RZ}
DZP 0 zbp DZ24
CZP zbp 0 {CZ}
QPASS_P rawp zbp prep TIP41C_P

* Negative preregulator
RZN rawn zbn {RZ}
DZN zbn 0 DZ24
CZN zbn 0 {CZ}
QPASS_N rawn zbn pren TIP42C_P

* Behavioural post-regulators.
* Output clamps to +/-17 V while nominal preregulator headroom exceeds 2.5 V.
* These sources are NOT energy-conserving regulator models and are therefore
* not used to establish preregulator current.
BREGP outp 0 V=if(V(prep)>19.5,17,max(0,V(prep)-2.5))
BREGN outn 0 V=if(V(pren)<-19.5,-17,min(0,V(pren)+2.5))

* THAT1206 receiver loads at the regulated outputs
IP_LOAD outp 0 {ILOAD}
IN_LOAD 0 outn {ILOAD}

* Explicit preregulator-current representation.
* This corrects the original behavioural-model deficiency:
* the preregulator must supply both receiver current and regulator
* programming/minimum-load current.
IP_PRE prep 0 {ILOAD+IPROG+IREG}
IN_PRE 0 pren {ILOAD+IPROG+IREG}

* First-pass BZX55C24 approximation.
* VZ represents the datasheet Zener voltage at approximately 5 mA and is
* stepped across the specified tolerance range.
*
* This simple model is intended to establish operating current and voltage
* margins only. It does not yet reproduce the full BZX55C24 avalanche slope,
* temperature coefficient or noise behaviour.
.model DZ24 D(BV={VZ} IBV=5m RS=1 N=1.2 CJO=200p)

* Simplified pass-transistor models retained for topology/tolerance work only.
* Replace with validated manufacturer TIP41C/TIP42C models before sign-off.
.model TIP41C_P NPN(IS=1e-12 BF=35 VAF=75 IKF=1 CJE=300p CJC=150p)
.model TIP42C_P PNP(IS=1e-12 BF=35 VAF=75 IKF=1 CJE=300p CJC=150p)

* Core operating-corner sweep
.step param VRAW list 48 55 60
.step param ILOAD list 0 4.7m 8m 10m
.step param VZ list 22.8 24 25.6

* Retain the full transient record so .meas FROM/TO uses absolute simulation time.
* The 250..300 ms interval below remains the steady-state measurement window.
.tran 0 300m 0 20u startup

* Preregulator measurements
.meas TRAN PREP_AVG AVG V(prep) FROM 250m TO 300m
.meas TRAN PREN_AVG AVG V(pren) FROM 250m TO 300m
.meas TRAN PREP_PP PP V(prep) FROM 250m TO 300m
.meas TRAN PREN_PP PP V(pren) FROM 250m TO 300m

* Regulated-output measurements
.meas TRAN OUTP_AVG AVG V(outp) FROM 250m TO 300m
.meas TRAN OUTN_AVG AVG V(outn) FROM 250m TO 300m

* Zener-current magnitudes
.meas TRAN IZP_AVG AVG -I(DZP) FROM 250m TO 300m
.meas TRAN IZN_AVG AVG -I(DZN) FROM 250m TO 300m

* Pass-transistor collector-current magnitudes
.meas TRAN IQP_AVG AVG Ic(QPASS_P) FROM 250m TO 300m
.meas TRAN IQN_AVG AVG -Ic(QPASS_N) FROM 250m TO 300m

.end
